US04886817
To a solution of 11.2 g of phenylacetylene dissolved in 100 ml of tetrahydrofuran, 78.8 ml of 1.6M-hexane solution of n-butyl lithium was added dropwise at 5°-8° C. Then 150 ml of a hexamethylphosphoramide solution containing 29.4 g of 1-bromo-6-(2-tetrahydropyranyloxy)-hexane was added dropwise at 10°-20° C. After stirring at 20° C. for 30 minutes, the reaction mixture was poured into ice-water and extracted with hexane. The organic layer was washed with water, dried and then the organic solvent was distilled off. The residue was purified by silica gel column chromatography (solvent: hexane-ethyl acetate=10:1), to give 18.3 g of 1-phenyl-8-(2-tetrahydropyranyloxy)-1-octyne as an oily substance.

reactant | phenylacetylene | 11.2 g | C1(=CC=CC=C1)C#C | C8H6
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-bromo-6-(2-tetrahydropyranyloxy)-hexane | 29.4 g | BrCCCCCCOC1OCCCC1 | C11H21BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 150 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-phenyl-8-(2-tetrahydropyranyloxy)-1-octyne | 18.3 g | C1(=CC=CC=C1)C#CCCCCCCOC1OCCCC1 | C19H26O2
